US06518286B1
(i) tert-Butyl 2-(1-piperazinyl)ethylcarbamate
A mixture of benzaldehyde (21 g) and 1-(2-aminoethyl)piperazine (25.8 g) was stirred and heated under a Dean and Stark water separator for 20 hours. The cooled solution was treated portionwise with di-tert-butyldicarbonate (48 g), stirred for 72 hours and concentrated. The residue was treated with 1M aqueous KHSO4 solution (220 ml), stirred for 24 hours, ether was added and the organic phase separated. The aqueous phase was treated with 2M NaOH solution, dichloromethane was added and the organic phase separated. The combined organic phase was washed with brine, dried and concentrated to give the sub-titled product as an oil (30 g).

reactant | benzaldehyde | 21 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | 1-(2-aminoethyl)piperazine | 25.8 g | NCCN1CCNCC1 | C6H15N3
reactant | di-tert-butyldicarbonate | 48 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | O | H2O
product | tert-Butyl 2-(1-piperazinyl)ethylcarbamate | 30 g | N1(CCNCC1)CCNC(OC(C)(C)C)=O | C11H23N3O2
